US05013841
A mixture of 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 1-acetyl-2-methylpiperazine and pyridine was heated under reflux for 5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in aqueous ammonia. The solution was neutralized with an aqueous solution of acetic acid and cooled with ice. The crystals were collected by filtration to give 7-(4-acetyl-3-methyl-1-piperazinyl)-5-amino-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. It was recrystallized from ethanol/chloroform. m.p. 269°-271° C.

reactant | 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=CC(=C1F)F)C1CC1)C(=O)O)=O | C13H10F2N2O3
reactant | 1-acetyl-2-methylpiperazine | C(C)(=O)N1C(CNCC1)C | C7H14N2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-(4-acetyl-3-methyl-1-piperazinyl)-5-amino-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C(C)(=O)N1C(CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)N)F)C | C20H23FN4O4
